US09169239B2
4-(2-Chloroacetyl)-1-methylpyridinium chloride
15.78 g 4-Acetyl-1-methylpyridinium iodide were suspended in 60 ml acetic acid and 15.0 g sulfuryl chloride were added. The mixture was stirred at ambient temperature for several hours and cooled to 0° C. The crystals were filtered, washed with acetic acid and dried.

reactant | 4-Acetyl-1-methylpyridinium iodide | 15.78 g | [I-].C(C)(=O)C1=CC=[N+](C=C1)C
reactant | sulfuryl chloride | 15.0 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 4-(2-Chloroacetyl)-1-methylpyridinium chloride | [Cl-].ClCC(=O)C1=CC=[N+](C=C1)C | InChI=1S/C8H9ClNO.ClH/c1-10-4-2-7(3-5-10)8(11)6-9;/h2-5H,6H2,1H3;1H/q+1;/p-1
